US09376442B2
1-Bromo-2-cyclopropylmethoxy-4-fluoro-5-methyl-benzene
Starting from 2-bromo-5-fluoro-4-methyl-phenol (example B.a3) and commercially available bromomethyl-cyclopropane the title compound is obtained as colorless oil after distillation at 5×10−3 mbar.

reactant | 2-bromo-5-fluoro-4-methyl-phenol | BrC1=C(C=C(C(=C1)C)F)O | C7H6BrFO
reactant | bromomethyl-cyclopropane | BrCC1CC1 | C4H7Br
product | 1-Bromo-2-cyclopropylmethoxy-4-fluoro-5-methyl-benzene | BrC1=C(C=C(C(=C1)C)F)OCC1CC1 | C11H12BrFO
